US06187770B1
Ethyl 5-bromopentanoate (1.66 g, 0.0079 mol) and potassium carbonate (1.75 g, 0.0127 mol) were added to a solution of 1,3,4,14b-tetrahydro-2H-dibenzo[b,f]pyrazino[1,2-d][1,4]-oxazepine (1.6 g, 0.0063 mol prepared similarly as described in Neth. Appl. 6709520, Chem. Abs. 70, 115192 (1969)) in 2-butanone (45 ml) and the reaction mixture was heated at 70-80° C. for 17 h. The mixture was diluted with benzene (50 ml), the solid was filtered off, washed with benzene (2×10 ml) and the filtrate was evaporated in vacuo. The residue (3.2 g) was purified by column chromatography on silica gel (100 g) using benzene and a mixture of benzene and chloroform (1:1) as eluents to afford 2.35 g (97%) crude 5-(1,3,4,14b-tetrahydro-2H-dibenzo[b,f]-pyrazino[1,2-d][1,4]oxazepin -2-yl)pentanoic acid ethyl ester.

reactant | Ethyl 5-bromopentanoate | 0.0079 mol, 1.66 g | BrCCCCC(=O)OCC | C7H13BrO2
reactant | potassium carbonate | 0.0127 mol, 1.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3,4,14b-tetrahydro-2H-dibenzo[b,f]pyrazino[1,2-d][1,4]-oxazepine | C1NCCN2C3=C(OC4=C(C21)C=CC=C4)C=CC=C3 | C16H16N2O
solvent | 2-butanone | 45 ml | CC(CC)=O | C4H8O
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 5-(1,3,4,14b-tetrahydro-2H-dibenzo[b,f]-pyrazino[1,2-d][1,4]oxazepin -2-yl)pentanoic acid ethyl ester | 2.35 g, 97% | C(C)OC(CCCCN1CC2N(C3=C(OC4=C2C=CC=C4)C=CC=C3)CC1)=O | C23H28N2O3
